US08217035B2
Synthesis of 5-nitro-2-(piperidin-4-yloxy)pyridine
Trifluoroacetic acid (5 eq) was added to a solution of tert-butyl 4-(5-nitropyridin-2-yloxy)piperidine-1-carboxylate (1 eq) in dichloromethane, stirring at room temperature for 1 hour. The solvent was then evaporated, the residue brought to pH=10 with sat. aq. Na2CO3 solution and extracted with EtOAc. The organic layer was washed with brine, dried over sodium sulfate and evaporated to afford the product as a light yellow crystalline solid. LC/MS (m/z): 224.3 (MH+), Rt 1.64 minutes

reactant | Trifluoroacetic acid | 5 eq | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(5-nitropyridin-2-yloxy)piperidine-1-carboxylate | 1 eq | [N+](=O)([O-])C=1C=CC(=NC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C15H21N3O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-nitro-2-(piperidin-4-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC1CCNCC1 | C10H13N3O3
